### PR TITLE
Add Arrow ripple carry adder example

### PR DESCRIPTION
**Pull request by blaxill**

### CODE REVIEW

File: cava/arrow-examples/ArrowAdder.v [hunk 1]
```diff
@@ -47,9 +47,98 @@ Section definition.
     (abcl, cout)
   ]>.
 
+  (* Combinators *)
+  Definition below {A B C D E F G: Kind}
+    (r: kappa_sugared var << A, B, Unit >> ( G ** D ))
```
Comment (satnam6502) [inline cava/arrow-examples/ArrowAdder.v:52]: Please add explanations for `kappa_sugared`, `<< .. >>`, `Unit` (perhaps linking to what you have already written about arrows) and `**`.

File: cava/arrow-examples/ArrowAdder.v [hunk 2]
```diff
@@ -47,9 +47,98 @@ Section definition.
...
+    (s: kappa_sugared var << G, C, Unit >> ( F ** E ))
+    : kappa_sugared var 
+      << A, (B ** C), Unit >> 
+      << F, (D ** E) >> :=
+  <[ \ a bc =>
+    let '(b, c) = bc in
+    let '(g, d) = !r a b in
```
Comment (satnam6502) [inline cava/arrow-examples/ArrowAdder.v:59]: Please explain why `!` is needed here, but not in the line above before `bc`.

File: cava/arrow-examples/ArrowAdder.v [hunk 3]
```diff
@@ -47,9 +47,98 @@ Section definition.
...
   ]>.
 
+  (* Combinators *)
+  Definition below {A B C D E F G: Kind}
+    (r: kappa_sugared var << A, B, Unit >> ( G ** D ))
+    (s: kappa_sugared var << G, C, Unit >> ( F ** E ))
+    : kappa_sugared var 
+      << A, (B ** C), Unit >> 
+      << F, (D ** E) >> :=
+  <[ \ a bc =>
```
Comment (satnam6502) [inline cava/arrow-examples/ArrowAdder.v:57]: Please explain what the `<[ ... >]` brackets are doing.

File: cava/arrow-examples/ArrowAdder.v [hunk 4]
```diff
@@ -47,9 +47,98 @@ Section definition.
...
+    let '(b, c) = bc in
+    let '(g, d) = !r a b in
+    let '(f, e) = !s g c in
+    (f, (d, e))
+  ]>.
+
+  Fixpoint replicate A n : Kind :=
```
Comment (satnam6502) [inline cava/arrow-examples/ArrowAdder.v:64]: Please explain what `replicate` does and why it is needed.

File: cava/arrow-examples/ArrowAdder.v [hunk 5]
```diff
@@ -47,9 +47,98 @@ Section definition.
...
+    intros.
+    auto.
+  Qed.
+
+  Fixpoint interleave n
+    : kappa_sugared var 
+      << Vector (S n) Bit, Vector (S n) Bit, Unit >> 
+      << replicate <<Bit, Bit>> (S n) >> :=
+  match n with
+  | 0 => <[\ x y => (x[#0], y[#0]) ]>
```
Comment (satnam6502) [inline cava/arrow-examples/ArrowAdder.v:96]: Please explain what `x[#0]` means.

File: cava/arrow-examples/ArrowAdder.v [hunk 6]
```diff
@@ -47,9 +47,98 @@ Section definition.
...
+    forall n, col (S n) circuit = below circuit (col n circuit).
+  Proof.
+    intros.
+    auto.
+  Qed.
+
+  Fixpoint interleave n
+    : kappa_sugared var 
+      << Vector (S n) Bit, Vector (S n) Bit, Unit >> 
+      << replicate <<Bit, Bit>> (S n) >> :=
```
Comment (satnam6502) [inline cava/arrow-examples/ArrowAdder.v:94]: In some places we have `replicate ...` and in other places we have `Vector ...`. Please can you explain the distinction.

File: cava/arrow-examples/ArrowAdder.v [hunk 7]
```diff
@@ -47,9 +47,98 @@ Section definition.
...
+  match n with
+  | 0 => <[\ x => mkVec (x) ]> 
+  | S n => 
+      <[\ xs => 
+      let '(x, xs') = xs in 
+      x :: !(productToVec n) xs'
+    ]>
+  end.
+
+  Definition rippleCarryAdder' (width: nat)
```
Comment (satnam6502) [inline cava/arrow-examples/ArrowAdder.v:118]: Please can you please adjust this so that the two inputs can be of different lengths `M` and `N` and the result `1 + max M N` bits.

File: cava/arrow-examples/ArrowAdder.v [hunk 8]
```diff
@@ -47,9 +47,98 @@ Section definition.
...
+    let '(x,y) = xy in
+    let merged = !(interleave _) x y in
+    let '(carry, result) = !(rippleCarryAdder' _) b merged in
+    (carry, !(productToVec _) result)
+    ]>.
+
 End definition.
 
-Definition fullAdder_structure := to_constructive (Desugar fullAdder) (ltac:(auto_kappa_wf)).
+Lemma fullAdder_wf: wf_debrujin [] (Desugar (@fullAdder) _).
```
Comment (satnam6502) [inline cava/arrow-examples/ArrowAdder.v:137]: Please can you explain why we need this in order to generate a netlist.

File: cava/arrow-examples/ArrowAdder.v [hunk 9]
```diff
@@ -81,8 +170,11 @@ Definition fullAdder_netlist :=
 
 (* Using `evaluate_to_terms` for a nicer extracted value *)
 Definition fullAdder_tb_expected_outputs  : list (bool * bool).
-Proof. evaluate_to_terms fullAdder_structure fullAdder_is_combinational fullAdder_tb_inputs. Defined.
+  (* := (List.map (evaluate (toCava circuit _) wf) inputs) . *)
+Proof. 
+   evaluate_to_terms fullAdder_structure fullAdder_is_combinational fullAdder_tb_inputs.
```
Comment (satnam6502) [inline cava/arrow-examples/ArrowAdder.v:175]: Please can you explain what this line does.

File: cava/arrow-examples/ArrowAdder.v (hunk 1 above)
Comment (blaxill) [reply cava/arrow-examples/ArrowAdder.v:52]: Ill leave this one just a tad longer as I have some ideas how to converge this further. In fact at this point `<< _, _ >>` is the same as `_ ** _`, but I'd like to change the `kappa_sugared` type. This could be via notation or via definition.

Currently

```
 Definition foo: kappa_sugared <<Bit, Bit, Unit>> Bit := ..
```

By repurposing notation currently used for category/arrow (but usage of which has diminished greatly): 

```
 Definition foo: Bit ~> Bit ~> Bit := ..
```

Or without using notation (not lack of Unit)

```
 Definition foo: circuit <<Bit, Bit>> Bit := ..
```

In this case I would be tempted to rebind `*` (only) within the `Kind` scope of arrows giving..

```
 Definition foo: circuit (Bit * Bit) Bit := ..
```

File: cava/arrow-examples/ArrowAdder.v (hunk 9 above)
Comment (blaxill) [reply cava/arrow-examples/ArrowAdder.v:175]: I'll hold off on this one too for a moment as it may not be necessary after making sure all functions are computable and dont depend on transparent proofs.

File: cava/arrow-examples/ArrowAdder.v (hunk 7 above)
Comment (blaxill) [reply cava/arrow-examples/ArrowAdder.v:137]: I'd like to address this in a follow up along with refactoring of the arrow examples file/directory structure

File: cava/arrow-examples/ArrowAdder.v (hunk 9 above)
Comment (blaxill) [reply cava/arrow-examples/ArrowAdder.v:197]: (its custom Ltac defined in the Combinational Arrow instance though)
